US06936608B2
4-Fluoro-3-(3-fluoropyridin-2-yl)phenylamine was subjected to reaction with sodium nitrite, in hydrobromic acid in the presence of copper(I) bromide, according to the method of Example 23. 2-(5-Bromo-2-fluorophenyl)-3-fluoropyridine was obtained by chromatography (silica gel, CH2Cl2) as a pink solid: MS (ES+) m/z 270, 272 [M+H]+.

reactant | 4-Fluoro-3-(3-fluoropyridin-2-yl)phenylamine | FC1=C(C=C(C=C1)N)C1=NC=CC=C1F | C11H8F2N2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | hydrobromic acid | Br | BrH
catalyst | copper(I) bromide | [Cu]Br
product | 2-(5-Bromo-2-fluorophenyl)-3-fluoropyridine | BrC=1C=CC(=C(C1)C1=NC=CC=C1F)F | C11H6BrF2N
